US04665079
1-Benzyl-2-[(t-butoxycarbonylamino)methyl]azetidine
To a solution of 14.4 g (82.0 mmol 1-benzyl-2-(aminomethyl)azetidine [French Pat. No. 79-00258; C.A. 94:208573n (1981)], 90 ml of 1N sodium hydroxide, and 125 ml of tertiary butyl alcohol was added, dropwise, 19.64 g (90 mmol) of di-tert-butyl dicarbonate keeping the temperature below 60° C. When the addition was completed, the reaction was heated at 60° for three hours and then at room temperature for 18 hours. The solvent was removed in vacuo and the residue was partitioned between chloroform and water. The organic layer was washed with water, dried (MgSO4), and evaporated in vacuo to give 19.3 g (95%) of the title compound as a pale yellow oil, which was used without further purification.

reactant | 1-benzyl-2-(aminomethyl)azetidine | 82.0 mmol | C(C1=CC=CC=C1)N1C(CC1)CN | C11H16N2
reactant | sodium hydroxide | 1N, 90 ml | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 90 mmol, 19.64 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tertiary butyl alcohol | 125 ml | C(C)(C)(C)O | C4H10O
product | 1-Benzyl-2-[(t-butoxycarbonylamino)methyl]azetidine | 19.3 g, 95% | C(C1=CC=CC=C1)N1C(CC1)CNC(=O)OC(C)(C)C | C16H24N2O2
